US07700589B2
3d) methyl 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate
7.4 g (45 mmol) of CDT were added to a solution of 10.5 g (44.6 mmol) of methyl 2-amino-3-(3,4-diethyl-phenyl)-propionate in 250 mL of THF cooled to 0° C. and stirred for a further 30 min at this temperature. Then 10.9 g (44.6 mmol) of 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one was added and the reaction solution was kept for a further 20 min at this temperature before being refluxed for 30 min. The solvent was removed in vacuo, the residue was taken up in saturated NaHCO3 solution, exhaustively extracted with diethyl ether/EtOAc (1:1) and dried over MgSO4. After elimination of the desiccant and solvent the crude product was reacted without any further purification.

reactant | methyl 2-amino-3-(3,4-diethyl-phenyl)-propionate | 44.6 mmol, 10.5 g | NC(C(=O)OC)CC1=CC(=C(C=C1)CC)CC | C14H21NO2
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 44.6 mmol, 10.9 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | C(C)C=1C=C(C=CC1CC)CC(C(=O)OC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C29H38N4O4
